US09034900B2
Step 2: 5-bromo-1,3,4-trimethylpyridin-2-one
To a solution of 5-bromo-3,4-dimethyl-1H-pyridin-2-one (402.0 mg, 2.0 mmol) in anhydrous THF (20 mL) was added NaH (96.0 mg, 2.4 mmol). The resulting mixture was stirred at 0° C. for 30 min. Methyl iodide (568.0 mg, 4.0 mmol) was added and the reaction was stirred at 32° C. for 3 h. Then, saturated aqueous NH4Cl (100 mL) was added and the mixture extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with brine (100 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (PE:EA=10:1 to 2:1) to give the title compound (350.0 mg, 80%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.38 (s, 1H), 3.52 (s, 3H), 2.27 (s, 3H), 2.20 (s, 3H). LCMS (M+H)+ 216.

reactant | 5-bromo-3,4-dimethyl-1H-pyridin-2-one | 2.0 mmol, 402.0 mg | BrC=1C(=C(C(NC1)=O)C)C | C7H8BrNO
reactant | NaH | 2.4 mmol, 96.0 mg | [H-].[Na+]
reactant | Methyl iodide | 4.0 mmol, 568.0 mg | CI | CH3I
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-bromo-1,3,4-trimethylpyridin-2-one | 350.0 mg, 80% | BrC=1C(=C(C(N(C1)C)=O)C)C | C8H10BrNO
